US08809525B2
6-[2-(azetidin-1-yl)-6-methylpyridin-4-yl]-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (6.0 mg, 4%) was prepared from 5-(4-fluorophenyl)-6-(2-chloro-6-methyl-pyridin-4-yl)-1,2,4-triazin-3-amine (150 mg, 0.48 mmol) and azetidine (136 mg, 0.16 ml, 2.38 mmol) according to the general procedure for Preparation 4a.

reactant | 5-(4-fluorophenyl)-6-(2-chloro-6-methyl-pyridin-4-yl)-1,2,4-triazin-3-amine | 0.48 mmol, 150 mg | FC1=CC=C(C=C1)C=1N=C(N=NC1C1=CC(=NC(=C1)C)Cl)N | C15H11ClFN5
reactant | azetidine | 2.38 mmol, 0.16 ml, 136 mg | N1CCC1 | C3H7N
product | 6-[2-(azetidin-1-yl)-6-methylpyridin-4-yl]-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 6.0 mg, 4% | N1(CCC1)C1=NC(=CC(=C1)C1=C(N=C(N=N1)N)C1=CC=C(C=C1)F)C | C18H17FN6
